US07737166B2
7-(Cyclopent-3-enyl)-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-300)
At room temperature, Grubbs catalyst second generation (92 mg, 0.11 mol) was added to a solution of 7-(1-allylbut-3-enyl)-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-299) (400 mg, 1.09 mmol) dissolved in dichloromethane; (108 ml). Under nitrogen atmosphere, the solution was stirred at 50° C. for 3.5 hours. After cooling to room temperature, the solvent was evaporated away under reduced pressure. The residue was purified by middle-pressure liquid chromatography (eluent, n-hexane:ethyl acetate=9:1, v/v) to obtain the entitled compound (282 mg, 76%) as a white solid.

reactant | 7-(1-allylbut-3-enyl)-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | C(C=C)C(CC=C)C=1C(=C(C(=C2N=C(OC21)C2CC2)C#N)C)C2=CC=CC=C2 | C25H24N2O
catalyst | Grubbs catalyst second generation | 0.11 mol, 92 mg | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-(Cyclopent-3-enyl)-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 282 mg, 76% | C1(CC=CC1)C=1C(=C(C(=C2N=C(OC21)C2CC2)C#N)C)C2=CC=CC=C2 | C23H20N2O
